US07781478B2
1-[4-(3-cyano-6-difluoromethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-3-propyl-urea (Compound 893)
A solution of 2-(4-aminophenyl)-6-difluoromethoxy-1-ethyl-1H-indole-3-carbonitrile (200 mg, 0.611 mmol) in 1,2-dichloroethane (2 mL) is treated with n-propylisocyanate (115 mL, 1.23 mmol) and triethylamine (170 mL, 1.22 mmol). The resulting solution is stirred at ambient temperature for 12 hours, and then concentrated. The residual material is separated by silica gel chromatography (1/2 ethyl acetate-hexane) to afford the title product as a solid.

reactant | 2-(4-aminophenyl)-6-difluoromethoxy-1-ethyl-1H-indole-3-carbonitrile | 0.611 mmol, 200 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC(F)F)CC | C18H15F2N3O
reactant | n-propylisocyanate | 1.23 mmol, 115 mL | C(CC)N=C=O | C4H7NO
reactant | triethylamine | 1.22 mmol, 170 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 1-[4-(3-cyano-6-difluoromethoxy-1-ethyl-1H-indol-2-yl)-phenyl]-3-propyl-urea | C(#N)C1=C(N(C2=CC(=CC=C12)OC(F)F)CC)C1=CC=C(C=C1)NC(=O)NCCC | C22H22F2N4O2
